US07064120B2
Step A. tert-Butyl methyl(pyridin-3-ylmethyl)carbamate
To a stirred solution of 3-(methylaminomethyl) pyridine (1.0 g, 8.2 mmol) in dichloromethane (20 mL) was added di-tert-butyl dicarbonate (1.8 g, 8.2 mmol). After 10 minutes, the reaction was quenched with water. The organic layer was washed with 5% aqueous sodium bicarbonate, dried over anhydrous sodium sulfate, filtered and concentrated in vacuo to give 1.8 g of crude product as a pale yellow oil, which was used as such in the next step.

reactant | 3-(methylaminomethyl) pyridine | 8.2 mmol, 1.0 g | CNCC=1C=NC=CC1 | C7H10N2
reactant | di-tert-butyl dicarbonate | 8.2 mmol, 1.8 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | tert-Butyl methyl(pyridin-3-ylmethyl)carbamate | 1.8 g | CN(C(OC(C)(C)C)=O)CC=1C=NC=CC1 | C12H18N2O2
